US06110929
Thionyl chloride (1.5 g) was added dropwise to a cooled solution of phenyl acetic acid (2 g) in dichloromethane (10 mL). This mixture was allowed to stir at ambient temperature for 1 hour to provide a solution containing phenylacetyl chloride. Triethyl amine (4.3 mL) was added to a suspension of 3-aminoquinolin-4-ol in dichloromethane (10 mL) and the resulting mixture was cooled in an ice bath. The phenylacetyl chloride solution was added dropwise to the cooled mixture. The reaction mixture was allowed to stir at ambient temperature overnight. The resulting thick oily precipitate was diluted with water (10 mL) and then stirred rapidly for 1 hour. The reaction mixture was filtered. Thin layer chromatography showed that both the isolated solid and the filtrate contained the desired product. The filtrate was diluted with dichloromethane and water. The dichloromethane layer was separated, dried over magnesium sulfate and then concentrated under vacuum. The residue was combined with the previously isolated solid and recrystallized from 80:20 isopropanol:water to provide 1.3 g of N-(4-hydroxyquinolin-3-yl)phenylacetamide as needles, m.p. 253-255° C. Analysis: Calculated for: C17H14N2O2 : % C, 73.37; % H, 5.07; % N, 10.07; Found: % C, 73.16; % H, 5.03; % N, 10.07.

reactant | Thionyl chloride | 1.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | phenyl acetic acid | 2 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 3-aminoquinolin-4-ol | NC=1C=NC2=CC=CC=C2C1O | C9H8N2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | Triethyl amine | 4.3 mL | C(C)N(CC)CC | C6H15N
product | N-(4-hydroxyquinolin-3-yl)phenylacetamide | 1.3 g | OC1=C(C=NC2=CC=CC=C12)NC(CC1=CC=CC=C1)=O | C17H14N2O2
